US07919621B2
Step 2a: 3-(5-Phenyl-[1,2,4]triazolo[4,3-a]quinolin-8-ylsulfanyl)-propionic acid 2-ethyl-hexyl ester (5w)
8-Iodo-5-phenyl-[1,2,4]triazolo[4,3-a]quinoline (900 mg, 3.0 mmol), 3-mercaptopropionic acid 2-ethylhexyl ester (660 mg, 3.0 mmol), iPr2NEt (1.05 mL, 6.0 mmol), Pd2dba3 (69 mg, 0.08 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (87 mg, 0.15 mmol) were dissolved in 1,4-dioxane (15 mL) and degassed with N2 for 10 minutes. The reaction was heated to 60° C. for 1.5 hours, and then cooled to room temperature and concentrated. The residue was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the desired product, 5w.

reactant | 8-Iodo-5-phenyl-[1,2,4]triazolo[4,3-a]quinoline | 3.0 mmol, 900 mg | IC1=CC=C2C(=CC=3N(C2=C1)C=NN3)C3=CC=CC=C3 | C16H10IN3
reactant | 3-mercaptopropionic acid 2-ethylhexyl ester | 3.0 mmol, 660 mg | C(C)C(COC(CCS)=O)CCCC | C11H22O2S
reactant | iPr2NEt | 6.0 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.15 mmol, 87 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 0.08 mmol, 69 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(5-Phenyl-[1,2,4]triazolo[4,3-a]quinolin-8-ylsulfanyl)-propionic acid 2-ethyl-hexyl ester | C(C)C(COC(CCSC1=CC=C2C(=CC=3N(C2=C1)C=NN3)C3=CC=CC=C3)=O)CCCC | C27H31N3O2S
